US07115737B2
Synthesis of (4,6-Dichloro-[1,3,5]triazin-2-yl)-(4-methoxy-benzyl)-amine.
To a solution of cyanuric chloride (1.5 g, 8.13 mmol) in THF (50 mL) Diisopropyethylamine (1.56 mL, 8.94 mmol) was added. The solution was placed in an ice-water bath (0° C.). Using a syringe, 4-methoxy-benzyl amine (1.16 mL, 8.94 mmol) dissolved in THF (150 mL) was slowly dripped into the reaction mixture. The reaction stirred at 0° C. for 3 hours. The crude compound was purified by column chromatography initially eluting with EA:Hexane (1:6). Compound was obtained as a white solid.

reactant | cyanuric chloride | 8.13 mmol, 1.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-methoxy-benzyl amine | 8.94 mmol, 1.16 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 8.94 mmol, 50 mL | C1CCOC1 | C4H8O
product | (4,6-Dichloro-[1,3,5]triazin-2-yl)-(4-methoxy-benzyl)-amine | ClC1=NC(=NC(=N1)Cl)NCC1=CC=C(C=C1)OC | C11H10Cl2N4O
